US08357635B2
To a stirred mixture of solid sodium hydride (55-65% in oil; 1.5 g; 34 mmol) and trimethylsulfoxonium iodide (7.6 g; 34 mmol) under nitrogen was added in one portion a solution of (E)-4-(2,4,5-Trichloro-thiophen-3-yl)-but-3-en-2-one (7.0 g; 27 mmol) prepared as described in example P33 in dry dimethylsulfoxide (300 mL). The reaction is slightly exothermic and gas evolution is observed. The reaction mixture was stirred for 10 minutes at ambient temperature then poured on water (600 ml) and brine (100 ml) then extracted with dichloromethane (3×300 ml). Combined organic layers were washed with water (2×800 ml) and dried over anhydrous sodium sulphate. The solvent was removed in vacuo and the residue was purified by chromatography over silica gel (eluant: cyclohexane/ethyl acetate 90:10) to afford 2.7 g (37% of theory) of trans-1-[2-(2,4,5-trichloro-thiophen-3-yl)-cyclopropyl]-ethanone as a yellow oil.

reactant | sodium hydride | 34 mmol, 1.5 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 34 mmol, 7.6 g | [I-].C[S+](=O)(C)C
reactant | (E)-4-(2,4,5-Trichloro-thiophen-3-yl)-but-3-en-2-one | 27 mmol, 7.0 g | ClC=1SC(=C(C1/C=C/C(C)=O)Cl)Cl | C8H5Cl3OS
solvent | dimethylsulfoxide | 300 mL | CS(=O)C | C2H6OS
solvent | brine | 100 ml | [Cl-].[Na+].O
product | trans-1-[2-(2,4,5-trichloro-thiophen-3-yl)-cyclopropyl]-ethanone | 2.7 g, 37% | ClC=1SC(=C(C1[C@H]1[C@@H](C1)C(C)=O)Cl)Cl | C9H7Cl3OS
